US08383631B2
3-chloro-1-(4-(4-chlorophenyl)piperazin-1-yl)propan-1-one
1-(4-Chlorophenyl)piperazine dihydrochloride (1.88 g, 6.973 mmol) was dissolved in methylene chloride and, after slowly adding triethylamine (1.9 mL, 13.946 mmol) at 0° C., stirred for 5 minutes. After adding 3-chloropropionyl chloride (0.67 mL, 6.973 mmol), the reaction solution was stirred at room temperature. After extracting with methylene chloride, the organic layer was dried with desiccant and then filtered. The filtrate was concentrated and purified by column chromatography (EtOAc/hexane, 4:1). A target compound (1.03 g, 3.586 mmol, 51.5%) was yielded as white solid.

reactant | 1-(4-Chlorophenyl)piperazine dihydrochloride | 6.973 mmol, 1.88 g | Cl.Cl.ClC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 13.946 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropionyl chloride | 6.973 mmol, 0.67 mL | ClCCC(=O)Cl | C3H4Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-chloro-1-(4-(4-chlorophenyl)piperazin-1-yl)propan-1-one | 3.586 mmol, 1.03 g, 51.5% | ClCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C13H16Cl2N2O
